US04859229
using 5-ethyl-3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-6-methyl-2,4(1H,3H)-pyrimidinedione and dimethyl sulphate there is obtained 5-ethyl-3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-1,6-dimethyl-2,4(1H,3H)-pyrimidinedione, m.p. 124°-125° C.;

reactant | 5-ethyl-3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-6-methyl-2,4(1H,3H)-pyrimidinedione | C(C)C=1C(N(C(NC1C)=O)C1=C(C=C(C(=C1)OC(C)C)Cl)F)=O | C16H18ClFN2O3
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
product | 5-ethyl-3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-1,6-dimethyl-2,4(1H,3H)-pyrimidinedione | C(C)C=1C(N(C(N(C1C)C)=O)C1=C(C=C(C(=C1)OC(C)C)Cl)F)=O | C17H20ClFN2O3
